US07071201B2
Example 133: Synthesis of 1-[1-(4-fluorophenethylpiperdin-4-yl]-6-acetamidomethylindoline
Under ice cooling, acetyl chloride (6.6 ml) was added dropwise into a solution of 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-aminomethylindoline (30 g) obtained above and triethylamine (9.4 g) in acetonitrile (500 ml) and the resultant mixture was stirred at room temperature for 1 hr. After adding a 5 N aqueous solution (40 ml) of sodium hydroxide and water (500 ml) to the reaction solution, the resulting crystalline precipitates were collected by filtration, washed successively with water and ethyl acetate and then dried at 50° C. overnight to give the crude title compound (22.8 g). This crude product was recrystallized successively from ethyl acetate and ethanol to give the title compound (17.9 g) as white needles (yield: 54%).

reactant | acetyl chloride | 6.6 ml | C(C)(=O)Cl | C2H3ClO
reactant | 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-aminomethylindoline | 30 g | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)CN)C=C1 | C22H28FN3
reactant | triethylamine | 9.4 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
solvent | water | 500 ml | O | H2O
product | 1-(4-fluorophenethylpiperdin-4-yl]-6-acetamidomethylindoline | 17.9 g, yield: 54% | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)CNC(C)=O)C=C1 | C24H30FN3O
